US08648200B2
Methyl 5-chloro-2-(trifluoromethyl)benzoate
Dissolve 5-chloro-2-(trifluoromethyl)benzoic acid (10 g, 0.044 mol) in MeOH (150 mL). Add thionyl chloride (50 g, 0.421 mol) slowly. Heat the resulting mixture to 70° C., and stir for 12 hours. Concentrate the mixture under reduced pressure. Pour the residue into water (100 mL), and extract the aqueous with EtOAc (2×200 mL). Dry the combined organics over sodium sulfate, and concentrate under reduced pressure to give the title compound (11.5 g, 96.5%) as an oil. 1H NMR (300 MHz, CDCl3,) δ 7.78 (d, J=2.1 Hz, 1H), 7.69 (d, J=8.4 Hz, 1H), 7.57 (dd, J=2.1, 8.7 Hz, 1H), 3.95 (s, 3H).

reactant | 5-chloro-2-(trifluoromethyl)benzoic acid | 0.044 mol, 10 g | ClC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C8H4ClF3O2
reactant | thionyl chloride | 0.421 mol, 50 g | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 150 mL | CO | CH4O
product | Methyl 5-chloro-2-(trifluoromethyl)benzoate | 11.5 g, 96.5% | ClC=1C=CC(=C(C(=O)OC)C1)C(F)(F)F | C9H6ClF3O2
